US09145415B2
To a solution of N-Boc-glycine (571 mg) in tetrahydrofuran (16 mL), isobutyl chloroformate (428 μL) and N-methylmorpholine (358 μL) were added under ice cooling, and the mixture was stirred at the same temperature for 20 minutes. To the reaction mixture, 4-nitro-1,2-phenylenediamine (500 mg) was added under ice cooling, and the mixture was stirred at room temperature for 3 hours and 30 minutes. To the reaction mixture, acetic acid (16 mL) was added, and the mixture was stirred at 70° C. for 3 hours and 30 minutes. The reaction mixture was cooled to room temperature, and then water and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed successively with saturated aqueous sodium hydrogencarbonate and saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 100 to 0% hexane in ethyl acetate) to obtain tert-butyl ((6-nitro-1H-benzo[d]imidazol-2-yl)methyl)carbamate (C19, 782 mg).

reactant | N-Boc-glycine | 571 mg | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | 4-nitro-1,2-phenylenediamine | 500 mg | [N+](=O)([O-])C1=CC(=C(C=C1)N)N | C6H7N3O2
reactant | acetic acid | 16 mL | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 16 mL | O1CCCC1 | C4H8O
solvent | isobutyl chloroformate | 428 μL | ClC(=O)OCC(C)C | C5H9ClO2
solvent | N-methylmorpholine | 358 μL | CN1CCOCC1 | C5H11NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl ((6-nitro-1H-benzo[d]imidazol-2-yl)methyl)carbamate | 782 mg | [N+](=O)([O-])C=1C=CC2=C(NC(=N2)CNC(OC(C)(C)C)=O)C1 | C13H16N4O4
